US04235918
5-(4-Chloro-3-n-hexylsulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine
The 4-(4-chloro-3-n-hexylsulfamoylphenyl)-4-oxobutanoic acid required is obtained analogously to the instructions indicated in Example 15(a) using 7.5 g of n-hexylamine.

reactant | 4-(4-chloro-3-n-hexylsulfamoylphenyl)-4-oxobutanoic acid | ClC1=C(C=C(C=C1)C(CCC(=O)O)=O)S(NCCCCCC)(=O)=O | C16H22ClNO5S
reactant | n-hexylamine | 7.5 g | C(CCCCC)N | C6H15N
product | 5-(4-Chloro-3-n-hexylsulfamoylphenyl)-5-hydroxy-1-methyl-2-oxopyrrolidine | ClC1=C(C=C(C=C1)C1(CCC(N1C)=O)O)S(NCCCCCC)(=O)=O | C17H25ClN2O4S
